US06649641B2
Step 1: Preparation of 5-(4-Formylphenyl)penta-2,4-dienoic Acid
To an ice cooled solution of sodium hydride (2.26 g, 67.2 mmol as a 60% mineral oil suspension) in dry THF (100 ml) was added dropwise a solution of trimethyl4-phosphonocrotonate (10.5 g, 50.4 mmol) in dry THF (200 ml), and the solution was stirred under an inert atmosphere at 0° C. for 3 hours. Terephthaldialdehyde mono diethyl acetal (7.00 g, 33.6 mmol) was dissolved in dry THF (200 ml) and slowly added to the above solution. Stirring was continued for 2 hours at 0° C. Water (400 ml) was slowly added, and followed by ethyl acetate (500 ml) and the layers were mixed. The organic layer was collected and dried with anhydrous sodium sulphate. Solvent was removed by rotary evaporation to leave 10.0 g of a crude orange product that was dissolved in ethanol (20 ml) and added a solution of 20% potassium hydroxide (100 ml). The mixture was stirred at room temperature for 5 hours, and then partitioned between ethyl acetate (500 ml) and water (500 ml). The organic layer was washed with water (200 ml), and the combined water phases back extracted once with ethyl acetate (300 ml). The water phase was acidified with glacial acetic acid to pH 3.5, and extracted with ethyl acetate (2×500 ml). The organic layer was dried with sodium sulphate, and taken to dryness to leave the title material as an orange powder. Yield: 6.78 g (100%).

reactant | sodium hydride | [H-].[Na+]
reactant | trimethyl4-phosphonocrotonate | 50.4 mmol, 10.5 g | CC(/C(=C(/C(=O)[O-])\C)/C)P(=O)(O)O
reactant | Terephthaldialdehyde mono diethyl acetal | 33.6 mmol, 7.00 g | CCOC(C1=CC=C(C=C1)C=O)OCC | C12H16O3
reactant | potassium hydroxide | 100 ml | [OH-].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 400 ml | O | H2O
product | 5-(4-Formylphenyl)penta-2,4-dienoic Acid | C(=O)C1=CC=C(C=C1)C=CC=CC(=O)O | C12H10O3
